US04555517
Ethoxymethyleneacetylacetone (5)
From acetylacetone (20 g, 0.20 mol), triethyl orthoformate (29.6 g, 0.20 mol) and acetic anhydride (41 g, 0.40 mol): 19.3 g, 62%; bp=95°-110° C. at 0.3 mm Hg; NMR (CDCl3) δ 1.3-1.6 (t, 3H), 2.4 (d, 6H), 4.3-4.5 (q, 2H), 7.8 (d, 1H).

reactant | acetylacetone | 0.20 mol, 20 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | triethyl orthoformate | 0.20 mol, 29.6 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 0.40 mol, 41 g | C(C)(=O)OC(C)=O | C4H6O3
product | Ethoxymethyleneacetylacetone | C(C)OC=CC(=O)CC(C)=O | C8H12O3
